US09085583B2
To tert-butyl 2-methyl-1-(3-oxopentan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (100 mg, 0.32 mmol) in CH3OH (2 ml) were added NaBH4 (35.9 mg, 0.95 mmol) at 0° C. The mixture was allowed to warm 25° C. with stir for 2 h. After the reaction completed, the solution was concentrated under vacuum and the solid was partitioned between EtOAc and H2O. The organic was separated, dried over Na2SO4 and evaporated under reduced pressure to give tert-butyl 1-(3-hydroxypentan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate as a white oil. (50 mg yield 50%).

reactant | tert-butyl 2-methyl-1-(3-oxopentan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 0.32 mmol, 100 mg | CC1=C(C=2C(=NC=CC2)N1C(C)C(CC)=O)C(=O)OC(C)(C)C | C18H24N2O3
reactant | NaBH4 | 0.95 mmol, 35.9 mg | [BH4-].[Na+]
solvent | CH3OH | 2 ml | CO | CH4O
product | tert-butyl 1-(3-hydroxypentan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | yield 50% | OC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)CC | C18H26N2O3
